US08703771B2
Step D: N(3)-4,5′-Bipyrimidin-2-yl-4-methylbenzene-1,3-diamine
Stannous chloride dihydrate (3.6 g, 16 mmol) was dissolved in 10 mL of concentrated hydrochloric acid. The solution was added to N-(2-methyl-5-nitrophenyl)-4,5′-bipyrimidin-2-amine with violent stirring. The mixture was poured into ice-cold water after being stirred for 2 hours. It was then neutralized to pH>8 with sodium carbonate and extracted with ethyl acetate for 4 times. The pooled extracts were washed with brine, dried over magnesium sulfate and finally concentrated under reduced pressure to obtain 0.7 g of the title compound. MS (M+1)=279.13.

reactant | N-(2-methyl-5-nitrophenyl)-4,5′-bipyrimidin-2-amine | CC1=C(C=C(C=C1)[N+](=O)[O-])NC1=NC=CC(=N1)C=1C=NC=NC1 | C15H12N6O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 10 mL | Cl | ClH
product | N(3)-4,5′-Bipyrimidin-2-yl-4-methylbenzene-1,3-diamine | 0.7 g | N1=C(N=C(C=C1)C=1C=NC=NC1)NC=1C=C(C=CC1C)N | C15H14N6
